US05672567
To a solution of 2-mercapto-3-methylimidazole in dry THF (100 ml) at 0° C. was added an n-butyl lithium solution (2.5M, 35.1 ml) over 10 minutes. The mixture was allowed to warm to room temperature and stirred for 3 hours. A white solid formed during this time. The temperature was brought down to 0° C. and 2-trifluoromethylbenzaldehyde (7.63 g) was added slowly over 15 minutes. The color turned dark brown. After 30 minutes, water (4 ml) was added to quench the reaction. The mixture was allowed to stir overnight. The 4-(1-hydroxy-2'-trifluoromethylbenzyl)-2-mercapto-3-methylimidazole formed (8.8 g) was collected by filtration, washed with 1:1 diethyl ether:hexanes and air dried.

reactant | 2-mercapto-3-methylimidazole | SC1=NC=CN1C | C4H6N2S
reactant | n-butyl lithium | 2.5M, 35.1 ml | C(CCC)[Li]
reactant | 2-trifluoromethylbenzaldehyde | 7.63 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | water | 4 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(1-hydroxy-2'-trifluoromethylbenzyl)-2-mercapto-3-methylimidazole | OC1(CC=2N(C(=NC2)S)C)C(C=CC=C1)C(F)(F)F | C12H13F3N2OS
